US09085570B2
A solution of methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (6.0 g, 22.64 mmol, 1.00 equiv), cyclohexanethiol (3.9 g, 33.62 mmol, 1.50 equiv) and cesium carbonate (11.1 g, 34.05 mmol, 1.50 equiv) in N,N-dimethylformamide (60 mL) was stirred under nitrogen overnight at 50° C. The reaction was then quenched by the addition of 30 mL of water. The precipitate was collected by filtration and washed with 3×10 mL of hexane to give 4.5 g (58%) of methyl 4-(4-(cyclohexylthiomethyl)-5-methyloxazol-2-yl)benzoate as a white solid after drying under vacuum.

reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 22.64 mmol, 6.0 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | cyclohexanethiol | 33.62 mmol, 3.9 g, 1.50 equiv | C1(CCCCC1)S | C6H12S
reactant | cesium carbonate | 34.05 mmol, 11.1 g, 1.50 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-(cyclohexylthiomethyl)-5-methyloxazol-2-yl)benzoate | 4.5 g, 58% | C1(CCCCC1)SCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C19H23NO3S
